US09403810B2
Step 2: 5-(3,3-Dimethylbut-1-yn-1-yl)-4-methylisoxazole-3-carboxylic acid
Ethyl 5-(3,3-dimethylbut-1-yn-1-yl)-4-methylisoxazole-3-carboxylate (101 mg, 0.429 mmol) in THF (3 mL) and MeOH (1.800 mL) was treated at room temperature with 2M NaOH (aq) (0.429 mL, 0.859 mmol) for 1 hour. 2M HCl (aq) (0.6 mL) and water were added and the aqueous was extracted with EtOAc. The combined organic extracts were dried over MgSO4 and filtered. The solvent was removed under reduced pressure to afford the title compound;

reactant | Ethyl 5-(3,3-dimethylbut-1-yn-1-yl)-4-methylisoxazole-3-carboxylate | 0.429 mmol, 101 mg | CC(C#CC1=C(C(=NO1)C(=O)OCC)C)(C)C | C13H17NO3
reactant | NaOH | 0.859 mmol, 2M, 0.429 mL | [OH-].[Na+]
reactant | HCl | 2M, 0.6 mL | Cl | ClH
reactant | water | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1.800 mL | CO | CH4O
product | 5-(3,3-Dimethylbut-1-yn-1-yl)-4-methylisoxazole-3-carboxylic acid | CC(C#CC1=C(C(=NO1)C(=O)O)C)(C)C | C11H13NO3
